US04317820
19.2 g of 8-chloro-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid and 35.5 g of piperazine were added to 350 ml of anhydrous dimethyl sulfoxide and the mixture was heated on an oil bath at 170° to 180° C. for 6 hours while stirring. After completion of the reaction, the solvent was removed under reduced pressure. 500 ml of water was added to the residue and the pH value of the mixture was adjusted to a pH of 2 followed by filtering water-insoluble materials. The filtrate was concentrated to 100 ml under reduced pressure and rendered alkaline (pH=9) with a 10% aqueous sodium hydroxide solution. After extracting the aqueous alkali solution with chloroform to thereby remove chloroform-soluble materials, the aqueous alkali solution layer was allowed to stand to precipitate crystals which were filtered. The crude crystals thus-obtained were dissolved in 10 ml of a 10% aqueous sodium hydroxide solution and the solution was treated with activated carbon and adjusted to a pH of 8 with a 10% aqueous hydrochloric acid solution to precipitate crystals which were filtered and washed with water sufficiently. Recrystallization of the crystals from dimethylformamide gave 6.5 g of 8-(1-piperazinyl)-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid as white needles having a melting point of 267° to 268° C. 6.4 g of 8-(1-piperazinyl)-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid thus-obtained was suspended in 50 ml of water and 15 ml of a 10% aqueous hydrochloric acid solution was added to the resulting solution. After removing the insoluble materials by filtration, the water was distilled off to obtain 5.7 g of 8-(1-piperazinyl)-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrochloride as white amorphous crystals having a melting point of 300° C. or more.

reactant | 8-chloro-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 19.2 g | ClC1=CC=C2C(C(=CN3CCCC1=C23)C(=O)O)=O | C13H10ClNO3
reactant | piperazine | 35.5 g | N1CCNCC1 | C4H10N2
reactant | dimethyl sulfoxide | 350 ml | CS(=O)C | C2H6OS
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | [OH-].[Na+]
product | 8-(1-piperazinyl)-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 6.5 g | N1(CCNCC1)C1=CC=C2C(C(=CN3CCCC1=C23)C(=O)O)=O | C17H19N3O3
